US08133897B2
2-Chloromethyl-5,7-dimethyl-imidazo[1,2-a]pyrimidine
A solution of 2-amino-4,6-dimethylpyrimidine (2.46 g, 20.0 mmol) and 1,3-dichloro-2-propanone (2.67 g, 21.0 mmol) in 1,2-dimethoxyethane (20 mL) was stirred at 45° C. overnight. A precipitate formed, and this was collected by filtration, and was then refluxed with ethanol (15 mL) for 2 hours. After cooling to room temperature, the product precipitated as white needles which were collected by filtration and vacuum dried to yield the title compound pure as its hydrochloride salt (883 mg, 19%). 1H NMR (500 MHz, DMSO-d6): δ7.84 (s, 1H), 6.88 (s, 1H), 4.84 (s, 2H), 2.60 (s, 3H), 2.49 (s, 3H).

reactant | 2-amino-4,6-dimethylpyrimidine | 20.0 mmol, 2.46 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 1,3-dichloro-2-propanone | 21.0 mmol, 2.67 g | ClCC(CCl)=O | C3H4Cl2O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-Chloromethyl-5,7-dimethyl-imidazo[1,2-a]pyrimidine | ClCC=1N=C2N(C(=CC(=N2)C)C)C1 | C9H10ClN3
